US07470705B2
(+/−)-cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-(3-fluoro-5-trifluoromethyl-benzoyl)-amino]-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester
Prepare the title compound by essentially following the procedure described for the synthesis of Example 47, using (+/−)-cis-4-(3,5-bis-trifluoromethyl-benzylamino)-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester (0.210 g, 0.415 mmol), 3-fluoro-5-trifluoromethyl benzoyl chloride (0.095 mL, 0.631 mmol) and pyridine (0.10 mL). Purify using silica gel column chromatography (gradient eluent, 0-30% ethyl acetate in hexane) to provide the title compound (0.246 g, 88%). MS (ES+): 696 (M+H).

reactant | (+/−)-cis-4-(3,5-bis-trifluoromethyl-benzylamino)-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 0.415 mmol, 0.210 g | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)OC)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C23H25F6N3O3
reactant | 3-fluoro-5-trifluoromethyl benzoyl chloride | 0.631 mmol, 0.095 mL | FC=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F | C8H3ClF4O
solvent | pyridine | 0.10 mL | N1=CC=CC=C1 | C5H5N
product | (+/−)-cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-(3-fluoro-5-trifluoromethyl-benzoyl)-amino]-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 0.246 g, 88% | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)OC)N(C(C1=CC(=CC(=C1)C(F)(F)F)F)=O)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C31H27F10N3O4
